US08026270B2
(3-chloro-4-{1-oxo-4,9-bis[(2,2,2-trifluoroethyl)oxy]-1,3-dihydro-2H-benzo[f]isoindol-2-yl}phenyl)acetic acid
To a solution of (3-chloro-4-{1-hydroxy-3-oxo-4,9-bis[(2,2,2-trifluoroethyl)oxy]-1,3-dihydro-2H-benzo[f]isoindol-2-yl}phenyl)acetic acid (0.235 g, 0.42 mmol) in trifluoroacetic acid (5 ml) cooled to 0° C., was added triethylsilane (0.10 ml, 0.63 mmol). Stirring continued at 0° C. for 5 minutes and then the mixture was evaporated. The crude mixture was purified using MDAP. The clean fractions were evaporated to give a white solid. This was triturated with ether, the resulting white solid collected by filtration (0.008 g, 0.015 mmol). LC/MS: Rt=3.49, [MH]+548.

reactant | (3-chloro-4-{1-hydroxy-3-oxo-4,9-bis[(2,2,2-trifluoroethyl)oxy]-1,3-dihydro-2H-benzo[f]isoindol-2-yl}phenyl)acetic acid | 0.42 mmol, 0.235 g | ClC=1C=C(C=CC1N1C(C=2C(=C3C(=C(C2C1O)OCC(F)(F)F)C=CC=C3)OCC(F)(F)F)=O)CC(=O)O | C24H16ClF6NO6
reactant | triethylsilane | 0.63 mmol, 0.10 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (3-chloro-4-{1-oxo-4,9-bis[(2,2,2-trifluoroethyl)oxy]-1,3-dihydro-2H-benzo[f]isoindol-2-yl}phenyl)acetic acid | ClC=1C=C(C=CC1N1CC=2C(=C3C(=C(C2C1=O)OCC(F)(F)F)C=CC=C3)OCC(F)(F)F)CC(=O)O | C24H16ClF6NO5
